US07728018B2
4,4-Diethyl-4,5-dihydro-3H-pyrazole
2,2-Diethyl-propane-1,3-diamine (5.0 g) was taken up in a mixture of H2O (40 mL) and MeOH (10 mL), and cooled in an ice bath. Simultaneously, H2O2 (24.2 mL of a 30% solution, 6 equiv.) and NaClO (54.9 mL of a 10% solution, 2.4 equiv.) were added dropwise, the ice bath was removed, and the mixture was stirred for 2 h. at room temperature. Extraction with DCM, drying over Na2SO4 and evaporation under reduced pressure yielded 3.51 g of a clear, yellow liquid containing 77% of the anticipated product and 23% of the diamine starting material. This material was used in subsequent steps without further purification. 1H NMR (400 MHz, CDCl3) δ 0.78 (t, J=7.5 Hz, 6H), 1.36 (q, J=7.5 Hz, 4H), 4.14 (s, 4H).

reactant | 2,2-Diethyl-propane-1,3-diamine | 5.0 g | C(C)C(CN)(CN)CC | C7H18N2
reactant | H2O2 | OO | H2O2
reactant | NaClO | [O-]Cl.[Na+]
solvent | H2O | 40 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | 4,4-Diethyl-4,5-dihydro-3H-pyrazole | 77% | C(C)C1(CN=NC1)CC | C7H14N2
